US04129728
Diethyl (benzylsulfinylmethyl)phosphonate
A solution of diethyl (benzylthiomethyl)phosphonate (10 g., 0.036 mole) in 75 ml. of methylene chloride was, with ice-bath cooling, treated with 7.29 g. (0.036 mole) of m-chloroperoxybenzoic acid portionwise. After the addition was complete, the mixture was stirred for 1 hour at ambient temperature, filtered to remove precipitate, and the filtrate concentated in vacuo. The residue was chromatographed on silica gel by eluting the column with ethyl acetate which gave 5.9 g. of the title compound.

reactant | diethyl (benzylthiomethyl)phosphonate | 0.036 mole, 10 g | C(C1=CC=CC=C1)SCP(OCC)(OCC)=O | C12H19O3PS
reactant | m-chloroperoxybenzoic acid | 0.036 mole | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Diethyl (benzylsulfinylmethyl)phosphonate | C(C1=CC=CC=C1)S(=O)CP(OCC)(OCC)=O | C12H19O4PS
